US09290496B2
Step 3: Preparation of 9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-2-(piperidin-3-yl) -9H-purin-6-amine
To a solution of tert-butyl 3-(9-isopropyl-6-((1-methyl-1H-pyrazol-4-yl)amino)-9H-purin-2-yl)piperidine-1-carboxylate (620 mg) in DCM (15 mL) was added TFA (1.2 mL). The resulting solution was stirred at ambient temperature for 1 hr. The volatiles were removed to give the crude title compound that was used in the next step without further purification.

reactant | tert-butyl 3-(9-isopropyl-6-((1-methyl-1H-pyrazol-4-yl)amino)-9H-purin-2-yl)piperidine-1-carboxylate | 620 mg | C(C)(C)N1C2=NC(=NC(=C2N=C1)NC=1C=NN(C1)C)C1CN(CCC1)C(=O)OC(C)(C)C | C22H32N8O2
reactant | TFA | 1.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 9-isopropyl-N-(1-methyl-1H-pyrazol-4-yl)-2-(piperidin-3-yl) -9H-purin-6-amine | C(C)(C)N1C2=NC(=NC(=C2N=C1)NC=1C=NN(C1)C)C1CNCCC1 | C17H24N8
